US05969140
1-[2-(2-Oxo-4-tert-butoxycarbonyl-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (0.96 g) is added to a 4 M solution of hydrogen chloride in dioxane (25 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. The mixture is concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; chloroform:methanol:acetic acid=90:10:3), and crystallized from ethyl acetate to give 1-[2-(2-oxo-4-carboxy-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (0.41 g) which is listed in Table 7.

reactant | 1-[2-(2-Oxo-4-tert-butoxycarbonyl-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 0.96 g | O=C1N(C2=CC=CC=C2C(=C1)C(=O)OC(C)(C)C)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C33H32N2O7
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(2-oxo-4-carboxy-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 0.41 g | O=C1N(C2=CC=CC=C2C(=C1)C(=O)O)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C29H24N2O7
